### ISSUE TITLE
RFC: Recover better from a deterministic timeout.

### ISSUE THREAD

**Issue by fpvandoorn** [leanprover/lean4#3554]
### Proposal

I think it would be nice if Lean deals a bit better when it reaches a deterministic timeout. In a typical case my timeout happens during elaboration/tactic executing of the proof of a theorem, and I would like Lean to still treat that declaration as if there was a sorry/other error in the proof
In particular:
* It should show mouse-over information over the term that it parsed
* It should add the declaration (with proof sorry'd) to the environment if the type was elaborated successfully

Related RFC: #3556
### Community Feedback

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/recover.20better.20from.20deterministic.20timeout)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

**Comment by leodemoura** [comment]
@fpvandoorn Could you please attach an example? 
The following example seems to be doing what you want.

```lean
opaque g : Nat → Nat

def f : (n : Nat) → Nat
  | 0 => g 1
  | n+1 => g (f n)

set_option maxHeartbeats 100 in
theorem foo : f 30 = x := by
  simp [f] -- (deterministic) timeout at 'whnf', ...

/--
info: theorem foo : ∀ {x : Nat}, f 30 = x :=
fun {x} => sorryAx (f 30 = x) true
-/
#guard_msgs in
#print foo
```

Here is the hover over `f`.
<img width="963" alt="image" src="https://github.com/leanprover/lean4/assets/2778936/6c4e48ed-3658-414f-a02d-d4e69b0489a1">

**Comment by fpvandoorn** [comment]
I think I misdiagnosed the error, and I expect that this is a special case of #3831 (which has small mwe's) when the deterministic timeout occurs during elaboration (and not during tactic execution).

**Comment by fpvandoorn** [comment]
This realization made it easy to find a MWE for this issue:
```lean
def foo : Nat → Nat
| 0 => 0
| n+1 => foo n + 1

set_option maxHeartbeats 100 in -- note: when we remove this, there is a max recursion depth error, and that also causes bar to not be added to the environment
theorem bar : True := by
  simp [show foo 1000 = 1000 from rfl] -- (deterministic) timeout

#print bar -- unknown constant 'bar'
```
I expect it is indeed the same cause as #3831.
